* c:\users\sriramajayam\esim-workspace\3bit_counter\3bit_counter.cir

.include BC547B.lib
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ vinisha_3bit_counter
q2 clk net-_c1-pad2_ gnd BC547B
q1 gnd net-_c2-pad2_ net-_c1-pad1_ BC547B
r1  net-_r1-pad1_ net-_c1-pad1_ 1k
r4  net-_r1-pad1_ clk 1k
r2  net-_r1-pad1_ net-_c1-pad2_ 100k
r3  net-_r1-pad1_ net-_c2-pad2_ 100k
c1  net-_c1-pad1_ net-_c1-pad2_ 7.24u
c2  clk net-_c2-pad2_ 7.24u
v1  net-_r1-pad1_ gnd 5
* u4  clk rst net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u2  clk plot_v1
* u3  rst plot_v1
v2  rst gnd pulse(0 5 0.1 0.1 0.1 1 1000)
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ out2 out1 out0 dac_bridge_3
* u6  out2 plot_v1
* u7  out1 plot_v1
* u8  out0 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u1
a2 [clk rst ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [out2 out1 out0 ] u5
* Schematic Name:                             vinisha_3bit_counter, NgSpice Name: vinisha_3bit_counter
.model u1 vinisha_3bit_counter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)+24 v(rst)+18 v(out0)+12 v(out1)+6 v(out2)
.endc
.end
